US04621084
A solution of 5-(2-bromopropionyl)-3-methyl-2-benzothiazolinone (3.0 g) and 2-amino-4-methylpyridine (3.24 g) in acetonitrile (100 ml) was refluxed for 8 hours. The reaction mixture was concentrated to about a half volume and poured into a mixture of water and ethyl acetate. The resulitng mixture was acidified to PHO.5 with 10% hydrochloric acid. The precipitate was collected by filtration and washed successively with water and ethyl acetate. The resulting precipitate was added to a mixture of ethyl acetate, tetrahydrofuran and water, and the mixture was adjust to pH 7.0 with 20% aqueous potassium carbonate solution. The separated organic alyer was washed with brine, dried over magnesium sulfate and evaporated in vacuo to afford a crystalline residue. The residue was recrystallized from a mixture of ethyl acetate and tetrahydrofuran to give 5-(3,7-dimethylimidazo-[1,2-a]pyridin-2-yl)-3-methyl-2-benzothiazolinone (1.96 g).

reactant | 5-(2-bromopropionyl)-3-methyl-2-benzothiazolinone | 3.0 g | BrC(C(=O)C=1C=CC2=C(N(C(S2)=O)C)C1)C | C11H10BrNO2S
reactant | 2-amino-4-methylpyridine | 3.24 g | NC1=NC=CC(=C1)C | C6H8N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-(3,7-dimethylimidazo-[1,2-a]pyridin-2-yl)-3-methyl-2-benzothiazolinone | 1.96 g | CC1=C(N=C2N1C=CC(=C2)C)C=2C=CC1=C(N(C(S1)=O)C)C2 | C17H15N3OS
